US04124704
A mixture of 700 g. of polyphosphoric acid and 100 g. of α-(2-bromo-4-methylphenoxy)acetophenone is heated at 80°-90° C. for two hours, then poured into two liters of water with stirring. Chloroform (1 liter) is added, and the phases are separated. The organic layer is washed with water, dried, then evaporated to provide 7-bromo-5-methyl-3-phenylbenzofuran as a brown oil.

reactant | α-(2-bromo-4-methylphenoxy)acetophenone | BrC1=C(OCC(=O)C2=CC=CC=C2)C=CC(=C1)C | C15H13BrO2
reactant | water | two liters | O | H2O
solvent | Chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-5-methyl-3-phenylbenzofuran | BrC1=CC(=CC=2C(=COC21)C2=CC=CC=C2)C | C15H11BrO
